US08791102B2
A flask was charged with (2S,4S)-4-((5-chlorothien-2-yl)methyl)-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide (340 mg, 0.861 mmol), prepared as in Reference 6, palladium on carbon (10%, 50 mg), ammonium formate (200 mg, 3.33 mmol) and methanol (10 mL) and the mixture was heated to 80° C. The mixture was stirred at 80° C. for 30 minutes, filtered and then concentrated to give crude (2S,4S)—N-(4-(4-fluorophenoxy)phenyl)-4-(thien-2-ylmethyl)pyrrolidine-2-carboxamide (0.252 mg, 0.636 mmol), which was carried forward without further purification.

reactant | (2S,4S)-4-((5-chlorothien-2-yl)methyl)-N-(4-(4-fluorophenoxy)phenyl)pyrrolidine-2-carboxamide | 0.861 mmol, 340 mg | ClC1=CC=C(S1)C[C@@H]1C[C@H](NC1)C(=O)NC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C22H20ClFN2O2S
reactant | ammonium formate | 3.33 mmol, 200 mg | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 50 mg | [Pd] | Pd
solvent | methanol | 10 mL | CO | CH4O
product | (2S,4S)—N-(4-(4-fluorophenoxy)phenyl)-4-(thien-2-ylmethyl)pyrrolidine-2-carboxamide | 0.636 mmol, 0.252 mg | FC1=CC=C(OC2=CC=C(C=C2)NC(=O)[C@H]2NC[C@@H](C2)CC=2SC=CC2)C=C1 | C22H21FN2O2S
